US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, N4-(4-tert -butylphenyl]-2-chloro-5-fluoro-4-pyrimidineamine and 5-amino-2,3-dihydro-2-(methoxycarbonyl)benzofuran were reacted to yield N2-(4-tert-butylphenyl)-5-fluoro-N2-[2,3-dihydro-2-(methoxycarbonyl)benzofuran-5-yl]-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 10.16 (bs, 1H), 9.84 (bs, 1H), 8.16 (d, 1H, J=5.4 Hz), 7.56 (d, 2H, J=8.1 Hz), 7.49 (s, 1H), 7.35 (d, 2H, J=8.7 Hz), 7.13 (dd, 1H, J=1.8 and 8.7 Hz), 6.78 (d, 1H, J=8.7 Hz), 5.35 (dd, 1H, J=6.6 and 10.5 Hz), 3.52 (dd, 1H, J=10.5 and 16.5 Hz), 3.20 (dd, 1H, J=6.6 and 16.5 Hz), 1.27 (s, 9H); LCMS: ret. time: 26.52 min.; purity: 96%; MS (m/e): 437 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | N4-(4-tert -butylphenyl]-2-chloro-5-fluoro-4-pyrimidineamine | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC(=NC=C1F)Cl | C14H15ClFN3
reactant | 5-amino-2,3-dihydro-2-(methoxycarbonyl)benzofuran | NC=1C=CC2=C(CC(O2)C(=O)OC)C1 | C10H11NO3
product | N2-(4-tert-butylphenyl)-5-fluoro-N2-[2,3-dihydro-2-(methoxycarbonyl)benzofuran-5-yl]-2,4-pyrimidinediamine | C(C)(C)(C)C1=CC=C(C=C1)N(C1=NC=C(C(=N1)N)F)C=1C=CC2=C(CC(O2)C(=O)OC)C1 | C24H25FN4O3
